US07220752B2
3,5-Dibromo-4-[5-isopropyl-2-(3-methylbenzoyl)-4-(3-methyl-3-butenyloxy)-phenoxy]phenylacetic acid (E1)
A 1M solution of BBr3 in CH2Cl2 (12 mL, 12 mmol) was added slowly with a syringe to a stirred solution of 3,5-dibromo-4-[5-isopropylmethoxy-2-(3-methylbenzoyl)phenoxy]-phenylacetic acid (2 g, 3.5 mmol) in 20 mL CH2Cl2 at −20° C. After 15 min at −20° C. the solution was allowed to reach room temperature. After an additional 1 h at room temperature, the solution was poured onto ice and extracted three times with EtOAc. The combined extracts were dried over MgSO4 and concentrated to give the title compound which was used in the next step without further purification. 1H NMR (CDCl3): δ 7.8–7.7 (m, 2H), 7.5 (s, 2H), 7.4−7.3 (m, 2H), 6.9 (s, 1H), 6.2 (s, 1H), 3.6 (s, 2H), 3.3–3.2 (m, 1H), 2.4 (s, 3H), 1.1 (d, 6H).

reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | 3,5-dibromo-4-[5-isopropylmethoxy-2-(3-methylbenzoyl)phenoxy]-phenylacetic acid | 3.5 mmol, 2 g | BrC=1C=C(C=C(C1OC1=C(C(=CC(=C1)C(C)C)OC)C(C1=CC(=CC=C1)C)=O)Br)CC(=O)O | C26H24Br2O5
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 12 mmol, 12 mL | C(Cl)Cl | CH2Cl2
product | 3,5-Dibromo-4-[5-isopropyl-2-(3-methylbenzoyl)-4-(3-methyl-3-butenyloxy)-phenoxy]phenylacetic acid | BrC=1C=C(C=C(C1OC1=C(C=C(C(=C1)C(C)C)OCCC(=C)C)C(C1=CC(=CC=C1)C)=O)Br)CC(=O)O | C30H30Br2O5
